US07994185B2
Step B: N-{3-[2-(1,1-dioxido-4-thiomorpholinyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 25 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dioxido-4-thiomorpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (200 mg, 0.325 mmol) and 2N dimethylzinc in toluene (0.325 mL, 0.649 mmol), the title compound was obtained as a solid (110 mg, 59% yield). MS (ESI): 596 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dioxido-4-thiomorpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.325 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCS(CC1)(=O)=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H17ClF3N5O4S3
reactant | dimethylzinc | 2N | C[Zn]C
reactant | toluene | 0.649 mmol, 0.325 mL | C1(=CC=CC=C1)C | C7H8
product | N-{3-[2-(1,1-dioxido-4-thiomorpholinyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | O=S1(CCN(CC1)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC(=NC=C1)C)=O | C24H20F3N5O4S3
